US07696223B2
b) 7-Hydroxy-4-isobutyl-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 7-hydroxy-4-(2-methyl-allyl)-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (128 mg, 0.36 mmole) and 10% Pd/C (100 mg) in ethyl acetate (12 ml), ethanol (3 ml) and formic acid (15 μl) was hydrogenated at 20 psi for a week before it was filtered, concentrated and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The sodium bicarbonate layer was washed with dichloromethane. The organic layer was combined and washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a white solid (35 mg). MS: (+) m/z 356.96 (M+1).

reactant | 7-hydroxy-4-(2-methyl-allyl)-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.36 mmole, 128 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)CC(=C)C)N=C(S2)C2=CC=CC=C2)O | C19H18N2O3S
solvent | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | formic acid | 15 μl | C(=O)O | CH2O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 7-Hydroxy-4-isobutyl-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 35 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)CC(C)C)N=C(S2)C2=CC=CC=C2)O | C19H20N2O3S
